US07612075B2
(2S,6R)-4-(2,4-Dimethoxy-benzyl)-2,6-dimethyl-3-oxo-piperazine-1-carboxylic acid benzyl ester (1.13 g, 2.74 mmol) is dissolved in 20 mL of acetonitrile. An aqueous solution of potassium persulfate (2.2 g, 8.23 mmol) and sodium phosphate (2.3 g, 16.5 mmol) in 12 mL of H2O is added, and the resulting mixture is heated to 95-100° C. for two hours. After cooling to room temperature, ethyl acetate (200 mL) is used to extract the aqueous layer and dried over magnesium sulfate. The residue after filtration and concentration is chromatographed (SiO2, 60% ethyl acetate/hexane) to give (2S, 6R)-2,6-Dimethyl-3-oxo-piperazine-1-carboxylic acid benzyl ester (480 mg, 67% yield) as a yellow oil.

reactant | (2S,6R)-4-(2,4-Dimethoxy-benzyl)-2,6-dimethyl-3-oxo-piperazine-1-carboxylic acid benzyl ester | 2.74 mmol, 1.13 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(C[C@H]1C)CC1=C(C=C(C=C1)OC)OC)=O)C | C23H28N2O5
reactant | potassium persulfate | 8.23 mmol, 2.2 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | sodium phosphate | 16.5 mmol, 2.3 g | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | H2O | 12 mL | O | H2O
product | (2S, 6R)-2,6-Dimethyl-3-oxo-piperazine-1-carboxylic acid benzyl ester | 480 mg, 67% yield | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(NC[C@H]1C)=O)C | C14H18N2O3
